US08871756B2
To a cooled mixture of concentrated hydrochloric acid (6 mL) and ice (10 g) was added slowly a solution of 2-amino-4-chlorobenzoic acid (4 g, 23.3 mmol), sodium hydroxide (0.94 g, 23.5 mmol) and sodium nitrite (1.6 g, 23.3 mmol) in water (30 mL) in an ice bath. The resulting mixture was stirred at 0° C. for 1 hour. A solution of potassium ethoxymethanedithioate (20.8 g, 65.2 mmol) in water (40 mL) in a beaker was heated to 65° C. The cold diazonium salt solution was added slowly to the above hot solution while evolution of gas was observed. After the addition the mixture was cooled to room temperature and acidified to about pH 3 with an aqueous solution of hydrochloric acid (4 N). The aqueous phase was decanted from the resulting semisolid and the sludge was dissolved in 10% aqueous sodium hydroxide (20 mL). The solution was heated for 2 hours at 100° C. followed by addition of sodium hydrosulfite (2 g). The resulting mixture was heated with stirring at 100° C. for an additional 10 minutes, then cooled to room temperature and filtered through a pad of celite. The filtrate was acidified to about pH 4 with concentrated hydrochloric acid. The formed solid was collected by filtration, washed with water, and dissolved in methanol (10 mL) and diethyl ether (150 mL). The solution was dried over sodium sulfate and concentrated in vacuo to afford 2.8 g of 4-chloro-2-sulfanylbenzoic acid as a yellow solid (yield was 63%).

reactant | hydrochloric acid | 6 mL | Cl | ClH
reactant | 2-amino-4-chlorobenzoic acid | 23.3 mmol, 4 g | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
reactant | sodium hydroxide | 23.5 mmol, 0.94 g | [OH-].[Na+]
reactant | sodium nitrite | 23.3 mmol, 1.6 g | N(=O)[O-].[Na+]
reactant | potassium ethoxymethanedithioate | 65.2 mmol, 20.8 g | C(C)OC(=S)[S-].[K+]
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | water | 30 mL | O | H2O
solvent | water | 40 mL | O | H2O
product | 4-chloro-2-sulfanylbenzoic acid | 2.8 g, yield was 63% | ClC1=CC(=C(C(=O)O)C=C1)S | C7H5ClO2S
